US05475106
Using a procedure similar to that described in Example 1, but starting with 2-[2-amino-N-(2-ethoxycarbonylphenyl)acetamido]-N-methyl-N-phenylacetamide (2.25 g) and 3-methylphenyl isocyanate (0.88 g), and after recrystallisation in ethyl acetate, 2-{N-(2-ethoxycarbonylphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide (1.6 g), m.p. 201° C., is obtained.

reactant | 2-[2-amino-N-(2-ethoxycarbonylphenyl)acetamido]-N-methyl-N-phenylacetamide | 2.25 g | NCC(=O)N(C1=C(C=CC=C1)C(=O)OCC)CC(=O)N(C1=CC=CC=C1)C | C20H23N3O4
reactant | 3-methylphenyl isocyanate | 0.88 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-{N-(2-ethoxycarbonylphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide | 1.6 g | C(C)OC(=O)C1=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)N(C1=CC=CC=C1)C | C28H30N4O5
